US07589232B2
Step b) Formation of ethyl 4-[{4-[(4-butylphenyl)ethynyl]benzyl}(hexanoyl)amino]benzoate
The titled compound was prepared following the procedure B using ethyl 4-({4-[(4-butylphenyl)ethynyl]benzyl}amino)benzoate and hexanoyl chloride as a yellow oil (92%). 1H NMR (CDCl3, 300 MHz) δ 8.00 (d, J=8.3 Hz, 2H), 7.41 (m, 4H), 7.14 (m, 4H), 7.03 (d, J=8.7 Hz, 2H), 4.89 (s, 2H), 4.37 (q, J=7.2 Hz, 2H), 2.60 (t, J=7.5 Hz, 2H), 2.06 (t, J=7.5 Hz, 2H), 1.67-1.55 (m, 4H), 1.43-1.10 (m, 9H), 0.91 (t, J=7.2 Hz, 3H), 0.82 (t, J=7.0 Hz, 3H). M+ (ESI): 510.5. HPLC, Rt: 6.14 min (Purity: 98.2%).

reactant | ethyl 4-({4-[(4-butylphenyl)ethynyl]benzyl}amino)benzoate | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CNC2=CC=C(C(=O)OCC)C=C2)C=C1 | C28H29NO2
reactant | hexanoyl chloride | C(CCCCC)(=O)Cl | C6H11ClO
product | ethyl 4-[{4-[(4-butylphenyl)ethynyl]benzyl}(hexanoyl)amino]benzoate | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C2=CC=C(C(=O)OCC)C=C2)C(CCCCC)=O)C=C1 | C34H39NO3
